US07112582B2
Step 3: 5,5-Dimethylpiperidine-2-ylideneamine monohydrochloride
The mixture of 3,3-dimethyl-6-methoxy-2,3,4,5-tetrahydropyridine (9.0 g, 64 mmol) and ammonium chloride (3.4 g, 64 mmol) in dry ethanol (160 mL) was heated to reflux for 2 h. The reaction mixture was then concentrated under reduced pressure and the titled compound was obtained as a white solid (9.9 g, 94.6%).

reactant | 3,3-dimethyl-6-methoxy-2,3,4,5-tetrahydropyridine | 64 mmol, 9.0 g | CC1(CN=C(CC1)OC)C | C8H15NO
reactant | ammonium chloride | 64 mmol, 3.4 g | [Cl-].[NH4+]
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 5,5-Dimethylpiperidine-2-ylideneamine monohydrochloride | Cl.CC1(CCC(NC1)=N)C | InChI=1S/C7H14N2.ClH/c1-7(2)4-3-6(8)9-5-7;/h3-5H2,1-2H3,(H2,8,9);1H
